US04766125
A mixture of 4.05 parts of 2-chloro-N-(2,6-dichlorophenyl)acetamide, 5.6 parts of 1-[4,4-bis(4-fluorophenyl)butyl]-2-piperazinecarboxamide, 2.94 parts of N,N-diethylethanamine and 63 parts of N,N-dimethylformamide was stirred for 5 hours at 70° C. The reaction mixture was poured onto ice-water. The precipitated product was filtered off and dissolved in dichloromethane. The solution was washed with water, dried, filtered and evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanone and 2-propanol. The salt was filtered off and stirred for 30 minutes in 1,1'-oxybisethane, yielding 4.54 parts of 3-(aminocarbonyl)-4-[4,4-bis(4-fluorophenyl)butyl]-N-(2,6-dichlorophenyl)-1-piperazineacetamide dihydrochloride monohydrate; mp. 182.7° C. (compound 72).

reactant | 2-chloro-N-(2,6-dichlorophenyl)acetamide | ClCC(=O)NC1=C(C=CC=C1Cl)Cl | C8H6Cl3NO
reactant | 1-[4,4-bis(4-fluorophenyl)butyl]-2-piperazinecarboxamide | FC1=CC=C(C=C1)C(CCCN1C(CNCC1)C(=O)N)C1=CC=C(C=C1)F | C21H25F2N3O
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(aminocarbonyl)-4-[4,4-bis(4-fluorophenyl)butyl]-N-(2,6-dichlorophenyl)-1-piperazineacetamide dihydrochloride monohydrate | O.Cl.Cl.NC(=O)C1CN(CCN1CCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CC(=O)NC1=C(C=CC=C1Cl)Cl | InChI=1S/C29H30Cl2F2N4O2.2ClH.H2O/c30-24-4-1-5-25(31)28(24)35-27(38)18-36-15-16-37(26(17-36)29(34)39)14-2-3-23(19-6-10-21(32)11-7-19)20-8-12-22(33)13-9-20;;;/h1,4-13,23,26H,2-3,14-18H2,(H2,34,39)(H,35,38);2*1H;1H2
